US07605272B2
4-Fluoro-2-nitrobenzaldehyde (0.20 g, 1.2 mmol), 1-(2-methoxyethyl)piperazine (0.94 mL, 6.5 mmol) and DMSO (3.5 mL) were added and stirred at 100° C. for 1.0 hour. The reaction mixture was added with water and was washed with hexane/ethyl acetate (4/1) to remove impurities. After removing impurities, the reaction mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. Then, the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate) to obtain 4-[4-(2-methoxyethyl) piperazin-1-yl]-2-nitrobenzaldehyde (0.23 g, 68%).

reactant | 4-Fluoro-2-nitrobenzaldehyde | 1.2 mmol, 0.20 g | FC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4FNO3
reactant | 1-(2-methoxyethyl)piperazine | 6.5 mmol, 0.94 mL | COCCN1CCNCC1 | C7H16N2O
reactant | DMSO | 3.5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-[4-(2-methoxyethyl) piperazin-1-yl]-2-nitrobenzaldehyde | 0.23 g, 68% | COCCN1CCN(CC1)C1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C14H19N3O4
